* C:\Users\artur\OneDrive\Desktop\60W-20V-Buck-Converter-in-CCM\Ltspice simulation models\buck_simplified.asc
V1 N001 0 24
D1 0 N002 MBR745
M1 vincap N004 N002 N002 BSC060N10NS3
L1 N002 N003 150µ
C1 N003 0 470µ
R1 N003 0 3
V2 N004 N002 PULSE(0 12 0 100n 100n {D/freq} {1/freq})
C2 vincap 0 10µ
L2 N001 vincap 100µ
B1 cin_ac 0 V= V(vincap) - 24
.model D D
.lib C:\Users\artur\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\artur\AppData\Local\LTspice\lib\cmp\standard.mos
.param freq=100k D=0.83
.tran 0 {100m + 5/freq} 100m 100n
.backanno
.end
